US08003647B2
5-Benzyloxy-2-bromo-4-methylbenzaldehyde
To a solution of 3-benzyloxy-4-methylbenzaldehyde (0.39 g) in a mixed solvent of dichloromethane (1 mL) and methanol (1 mL) was added a solution of bromine (0.410 g) in dichloromethane (0.2 mL) at 0° C. and this mixture was stirred at room temperature for 2 hours. This mixture was poured into water and the resulting mixture was extracted with dichloromethane. The organic layer was washed with brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate) to give the title compound (0.39 g).

reactant | 3-benzyloxy-4-methylbenzaldehyde | 0.39 g | C(C1=CC=CC=C1)OC=1C=C(C=O)C=CC1C | C15H14O2
reactant | methanol | 1 mL | CO | CH4O
reactant | bromine | 0.410 g | BrBr | Br2
reactant | water | O | H2O
solvent | dichloromethane | 0.2 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 5-Benzyloxy-2-bromo-4-methylbenzaldehyde | 0.39 g | C(C1=CC=CC=C1)OC=1C(=CC(=C(C=O)C1)Br)C | C15H13BrO2
